US06825191B2
Synthesis of diethyl [2-(4-(4-chlorobenzoyl)-2-oxo-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][4,1]-diazepin-8-yl)ethyl]phosphonate
180 mg (0.35 mmol) of ethyl ((4-chlorobenzoyl)-(4-(2-(diethoxyphosphoryl)ethyl)-2-aminobenzyl)amino)acetate and 92 mg (0.46 mmol) of 4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzaldehyde were dissolved in 10 ml of dichloromethane. 0.040 ml (0.7 mmol) of acetic acid was added to the obtained solution. They were stirred at room temperature for 30 minutes. 185 mg (0.88 mmol) of sodium triacetoxyborohydride was added to the obtained mixture and they were stirred at room temperature overnight. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the obtained crude product was dissolved in a mixture of 2 ml of 1 N sodium hydroxide and 4 ml of ethanol, and the obtained solution was stirred at room temperature for 5 hours. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the obtained crude product was dissolved in 10 ml of dichloromethane. 78 mg (0.46 mmol) of 2-chloro-1,3-dimethylimidazonium chloride and 0.15 ml (1.05 mmol) of triethylamine were added to the obtained solution, and they were stirred overnight. The solvent was evaporated and the obtained crude product was treated in the same manner as in step 3 in Example 1 to obtain the title compound.

reactant | ethyl ((4-chlorobenzoyl)-(4-(2-(diethoxyphosphoryl)ethyl)-2-aminobenzyl)amino)acetate | 0.35 mmol, 180 mg | ClC1=CC=C(C(=O)N(CC2=C(C=C(C=C2)CCP(=O)(OCC)OCC)N)CC(=O)OCC)C=C1 | C24H32ClN2O6P
reactant | 4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzaldehyde | 0.46 mmol, 92 mg | N1(CC=CC1)C(=O)C1=CC=C(C=O)C=C1 | C12H11NO2
reactant | acetic acid | 0.7 mmol, 0.040 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.88 mmol, 185 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triethylamine | 1.05 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | diethyl [2-(4-(4-chlorobenzoyl)-2-oxo-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-2,3,4,5-tetrahydro-1H-benzo[e][4,1]-diazepin-8-yl)ethyl]phosphonate | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC(=C3)CCP(OCC)(OCC)=O)CC3=CC=C(C=C3)C(=O)N3CC=CC3)=O)C=C1 | C34H37ClN3O6P
